US08193199B2
To a stirring solution of 8-chloro-3-(chloromethyl)-2-(5-fluoro-2-(trifluoro-methyl)phenyl)quinoline hydrochloride (0.3482 g, 0.8480 mmol) in DMF (4.240 mL, 0.8480 mmol) was added sodium azide (0.1103 g, 1.696 mmol) at room temperature and the mixture was stirred at room temperature. After 1.5 h, the mixture was partitioned between EtOAc (100 mL) and H2O (100 mL). The organic layer was washed with brine (50 mL×1), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 14 min, then 50% isocratic of EtOAc for 5 min as eluent to give 3-(azidomethyl)-8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinoline as a colorless syrup: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.65 (1H, s), 8.12 (1H; dd, J=8.3, 1.3 Hz), 7.99-8.06 (2H, m), 7.69 (1H, dd, J=8.1, 7.5 Hz), 7.58-7.66 (2H, m), 4.44-4.59 (2H, m); LC-MS (ESI) m/z 381.1 [M+H]+. To a solution of 3-(azidomethyl)-8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)-quinoline (0.2573 g, 0.676 mmol) in methanol (6.76 mL, 0.676 mmol) was added palladium, 10 wt. % on activated carbon (0.0360 g, 0.0338 mmol). After repeating three times of evacuation of air in the flask by house vacuum and filling the flask with H2, the mixture was stirred under H2. After 30 min, the mixture was filtered through a pad of Celite™ and rinsed the pad with MeOH. The filtrate was concentrated under reduced pressure to give green syrup. The green syrup was purified by column chromatography on a 40 g of Redi-Sep™ column using 0% to 20% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 over 14 min, and then 20% isocratic of CH2Cl2:MeOH:NH4OH (89:9:1) for 20 min as eluent to give (8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinolin-3-yl)methanamine as a yellow syrup: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.62 (1H, s), 8.04 (1H, dd, J=8.4, 1.2 Hz), 8.01 (1H, dd, J=8.5, 5.4 Hz), 7.93 (1H, dd, J=7.4, 1.4 Hz), 7.54-7.67 (3H, m), 3.48-3.74 (2H, m), 1.96 (2H, br. s.); LC-MS (ESI) m/z 355.1 [M+H]+.

reactant | 8-chloro-3-(chloromethyl)-2-(5-fluoro-2-(trifluoro-methyl)phenyl)quinoline hydrochloride | 0.8480 mmol, 0.3482 g | Cl.ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)C(F)(F)F)CCl
reactant | DMF | 0.8480 mmol, 4.240 mL | CN(C)C=O | C3H7NO
reactant | sodium azide | 1.696 mmol, 0.1103 g | [N-]=[N+]=[N-].[Na+]
product | 3-(azidomethyl)-8-chloro-2-(5-fluoro-2-(trifluoromethyl)phenyl)quinoline | N(=[N+]=[N-])CC=1C(=NC2=C(C=CC=C2C1)Cl)C1=C(C=CC(=C1)F)C(F)(F)F | C17H9ClF4N4
